US04160765
A 3.9 g sample of 6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine is slurried in 25 ml of acetone and 0.7 g (0.016 mol, 10% excess) of ethylene oxide is added. The mixture is placed in a pressure bottle and stirred at ambient temperature for about 40 hours. The reaction mixture is then heated to 60°-80° for 30 minutes, cooled and filtered. Concentration of the filtrate gives a solid which is taken up in ethyl acetate and reprecipitated with ether. The solid thus obtained is dissolved in ethanol and treated with ethereal hydrogen chloride to give 6-chloro-7,8-dihydroxy-3-(2-hydroxyethyl)-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)O)O | C16H16ClNO2
reactant | ethylene oxide | 0.016 mol, 0.7 g | C1CO1 | C2H4O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-7,8-dihydroxy-3-(2-hydroxyethyl)-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.ClC1=C(C(=CC=2C(CN(CCC21)CCO)C2=CC=CC=C2)O)O | InChI=1S/C18H20ClNO3.ClH/c19-17-13-6-7-20(8-9-21)11-15(12-4-2-1-3-5-12)14(13)10-16(22)18(17)23;/h1-5,10,15,21-23H,6-9,11H2;1H
